US08053438B2
4-(3-(Tetrahydro-2H-pyran-3-yl)pyrazin-2-yloxy)aniline (0.082 g, 0.30 mmol) and 2-chlorobenzothiazole (0.039 mL, 0.30 mmol) were mixed in isopropyl alcohol (0.50 mL) in a microwave tube. The tube was sealed, and the reaction mixture was refluxed for 2.5 h. The reaction mixture was cooled to room temperature, diluted with sat. sodium bicarbonate, and extracted with EtOAc (2×). The combined organic layers were washed with sat. sodium chloride, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting crude product was purified by silica gel chromatography to give N-(4-(3-(tetrahydro-2H-pyran-3-yl)pyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine. MS (ESI, pos. ion) m/z: 405.1 (M+1). IC50 (uM) +++++.

reactant | 4-(3-(Tetrahydro-2H-pyran-3-yl)pyrazin-2-yloxy)aniline | 0.30 mmol, 0.082 g | O1CC(CCC1)C=1C(=NC=CN1)OC1=CC=C(N)C=C1 | C15H17N3O2
reactant | 2-chlorobenzothiazole | 0.30 mmol, 0.039 mL | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
solvent | isopropyl alcohol | 0.50 mL | C(C)(C)O | C3H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-(4-(3-(tetrahydro-2H-pyran-3-yl)pyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine | O1CC(CCC1)C=1C(=NC=CN1)OC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC=C2 | C22H20N4O2S
